US06906072B1
Reference Example 46 4-cyano-5-methyl-4-(3-cyano-2-thienyl)hexanol
500 mg (1.72 mmol) of ethyl 4-cyano-5-methyl-4-(3-cyano-2-thienyl)hexanolate was dissolved in 10 ml of THF, 37.5 mg (1.72 mmol) of lithium borohydride was added, and the mixture was heated under reflux. After one hour 20 minutes, heating was stopped, and 2N HCl was added under ice-cooling. The mixture was extracted with ethyl acetate, and the extract was successively washed with brine and water, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, to obtain a crude product. The crude product was subjected to silica gel (eluted with ethyl acetate:hexane=35:65), to give 244 mg (0.98 mmol, 57.1%) of the title compound as a colorless oil.

reactant | ethyl 4-cyano-5-methyl-4-(3-cyano-2-thienyl)hexanolate | 1.72 mmol, 500 mg | C(C)C(CCC(C(C)C)(C=1SC=CC1C#N)C#N)[O-]
reactant | lithium borohydride | 1.72 mmol, 37.5 mg | [BH4-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-cyano-5-methyl-4-(3-cyano-2-thienyl)hexanol | 0.98 mmol, 244 mg, 57.1% | C(#N)C(CCCO)(C(C)C)C=1SC=CC1C#N | C13H16N2OS
